US08357694B2
This product was synthesized as described in general procedure 2 except 4-(6-(3,4-difluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate was used instead of 4-(6-(3-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and 1-(2-methoxyethyl)piperazine instead of piperidine to afford 6-(3,4-difluorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine. M.p.=267-270° C. 1H NMR 400 MHz (DMSO-d6) δ 11.13 (s, 1H), 9.68 (s, 1H), 8.34 (s, 1H), 8.29 (d, J=6.8 Hz, 1H), 7.79 (d, J=8.0 Hz, 2H), 7.55-7.44 (m, 2H), 7.37-7.20 (m, 4H), 7.08 (d, J=5.2 Hz, 1H), 6.92-6.85 (br, 1H), 4.43 (t, J=6.4 Hz, 1H), 3.90-3.10 (m, 17H), 3.19-3.12 (m, 2H), 3.08-3.00 (m, 2H). LCMS m/e 557 (M+1).

reactant | 4-(6-(3,4-difluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC(=C(C=C1)F)F)C=CC=C3 | C27H23F2N3O3S
reactant | 1-(2-methoxyethyl)piperazine | COCCN1CCNCC1 | C7H16N2O
product | 6-(3,4-difluorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | FC=1C=C(C=CC1F)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | C33H35F2N5O
